US07981918B2
(±)3-(2,6-Dichloro-4-methoxy-benzyl)-1-(4,5,6,7-tetrahydro-2H-indazol-5-yl)-pyrrolidin-2-one
Dissolve 3-(2,6-Dichloro-4-methoxy-benzyl)-1-(3-dimethylaminomethylene-4-oxo-cyclohexyl)-pyrrolidin-2-one in ethanol (Preparation 24) (50 mL), and hydrazine hydrate (2.6 mL, 54 mmol) stir the resulting orange solution for 3 days at room temp. Concentrate the mixture to dryness, dilute with ethanol (15 mL) and ether (20 mL), cooled to 0° C. and filter to give 3.6 g, 68%, as a tan solid. MS (m/z): 394 (M+1).

reactant | 3-(2,6-Dichloro-4-methoxy-benzyl)-1-(3-dimethylaminomethylene-4-oxo-cyclohexyl)-pyrrolidin-2-one | ClC1=C(CC2C(N(CC2)C2CC(C(CC2)=O)=CN(C)C)=O)C(=CC(=C1)OC)Cl | C21H26Cl2N2O3
reactant | hydrazine hydrate | 54 mmol, 2.6 mL | O.NN
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | (±)3-(2,6-Dichloro-4-methoxy-benzyl)-1-(4,5,6,7-tetrahydro-2H-indazol-5-yl)-pyrrolidin-2-one | ClC1=C(CC2C(N(CC2)C2CC3=CNN=C3CC2)=O)C(=CC(=C1)OC)Cl | C19H21Cl2N3O2
